### PR TITLE
Add Erdős Problem 754 (favourite distances in R^4), link the formal proof

### LINKED ISSUE #6353: Erdős Problem 754
### What is the Erdős problem?

https://www.erdosproblems.com/754

Let $f(n)$ be maximal such that there exists a set $A$ of $n$ points in $\mathbb{R}^4$ in which every $x\in A$ has at least $f(n)$ points in $A$ equidistant from $x$. Is it true that $f(n)\leq \frac{n}{2}+O(1)$?

Status: proved (Swanepoel [Sw13]). A formal proof exists in plby/lean-proofs (`Erdos754.erdos_754`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-52

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6353.

### What changed
Adds `FormalConjectures/ErdosProblems/754.lean` with `f n` (the largest `k` such that some `n`-point set in `ℝ⁴` has, around every point, at least `k` other points at a common distance):
- `erdos_754` (`research solved`, `answer(True)`): `f(n) ≤ n/2 + O(1)` (Swanepoel [Sw13]). Linked to plby/lean-proofs `Erdos754.erdos_754` (Codex and GPT-5.6 Sol; 2 Mathlib-only files, on top of the Erdős 755 development).
- Sorry'd variants: the Avis–Erdős–Pach lower bound `n/2 + 2 ≤ f(n)` and Swanepoel's general favourite-distance inequality.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos754.erdos_754` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby picks a distance function on the point subtype; the bridge converts to the pointwise `∃ r > 0` form and identifies the counts):

<details>
<summary>Bridge</summary>

```lean
open Filter

namespace Bridge754

abbrev E4 := EuclideanSpace ℝ (Fin 4)

lemma favoriteDegree_eq (P : Finset E4) (c : P → ℝ) (x : P) :
    Erdos754Plby.favoriteDegree P c x =
      (P.filter fun y ↦ y ≠ x.1 ∧ dist x.1 y = c x).card := by
  classical
  unfold Erdos754Plby.favoriteDegree Erdos754Plby.IsFavorite
  refine Finset.card_bij (fun y _ => y.1) ?_ ?_ ?_
  · intro y hy
    simp only [Finset.mem_filter, Finset.mem_univ, true_and] at hy ⊢
    exact ⟨y.2, fun h => hy.1 (Subtype.ext h.symm), hy.2⟩
  · intro a _ b _ h
    exact Subtype.ext h
  · intro y hy
    simp only [Finset.mem_filter] at hy
    exact ⟨⟨y, hy.1⟩, by
      simp only [Finset.mem_filter, Finset.mem_univ, true_and]
      exact ⟨fun h => hy.2.1 (congrArg Subtype.val h).symm, hy.2.2⟩, rfl⟩

lemma attainable_iff (n k : ℕ) :
    Erdos754Plby.Attainable n k ↔ ∃ A : Finset E4, A.card = n ∧
      ∀ x ∈ A, ∃ r > 0, k ≤ (A.filter fun y ↦ y ≠ x ∧ dist x y = r).card := by
  classical
  constructor
  · rintro ⟨P, hP, c, hc, hk⟩
    refine ⟨P, hP, fun x hx => ⟨c ⟨x, hx⟩, hc _, ?_⟩⟩
    have := hk ⟨x, hx⟩
    rwa [favoriteDegree_eq] at this
  · rintro ⟨A, hA, h⟩
    choose r hr hk using h
    refine ⟨A, hA, fun x => r x.1 x.2, fun x => hr _ _, fun x => ?_⟩
    rw [favoriteDegree_eq]
    exact hk x.1 x.2

lemma f_eq (n : ℕ) : Erdos754.f n = Erdos754Plby.f n := by
  classical
  unfold Erdos754.f Erdos754Plby.f
  split_ifs with hn
  · subst hn
    apply Nat.sSup_of_not_bddAbove
    rintro ⟨b, hb⟩
    have : b + 1 ∈ {k | ∃ A : Finset E4, A.card = 0 ∧
        ∀ x ∈ A, ∃ r > 0, k ≤ (A.filter fun y ↦ y ≠ x ∧ dist x y = r).card} :=
      ⟨∅, rfl, fun x hx => absurd hx (Finset.notMem_empty x)⟩
    have := hb this
    omega
  · congr 1
    ext k
    exact (attainable_iff n k).symm

theorem erdos_754_bridge : type_of% Erdos754.erdos_754 := by
  show True ↔ _
  simp only [true_iff, f_eq]
  exact Erdos754Plby.erdos_754

#print axioms Erdos754Plby.erdos_754
#print axioms erdos_754_bridge

end Bridge754
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«754»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/754.lean [hunk 1]
```diff
@@ -0,0 +1,79 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/754.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/ErdosProblems/754.lean [hunk 2]
```diff
@@ -0,0 +1,79 @@
...
+open Filter
+
+namespace Erdos754
+
+open scoped Classical in
+/-- `f n` is maximal such that there exists a set `A` of `n` points in $\mathbb{R}^4$ in which
+every `x ∈ A` has at least `f n` points in `A` equidistant from `x` (i.e. at a common positive
+distance from `x`). -/
+noncomputable def f (n : ℕ) : ℕ :=
+  sSup {k | ∃ A : Finset (EuclideanSpace ℝ (Fin 4)), A.card = n ∧
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/754.lean:43]: EuclideanSpace ℝ (Fin 4)) we have notation for that in FormalConjecturesForMathlib, let's use it

**Review by mo271 — COMMENTED** [review]
thanks!
